US07902248B2
3-Amino-pyrazole (2 g, 24.1 mmol) was dissolved in 1,4-dioxane (60.25 mL) and triethylamine (6.77 mL, 48.2 mmol) was added followed by the dropwise addition of di-tert-butyl dicarbonate (5.78 g, 26.5 mmol). The solution stirred at 25° C. for 4 h. The mixture was concentrated in vacuo, diluted with ethyl acetate (100 mL), washed with water (2×50 mL), saturated aqueous brine solution (2×50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Flash column chromatography (Merck silica gel 60, 40-63 μm; 20% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded 5-amino-pyrazole-1-carboxylic acid tert-butyl ester (less polar product, 2.53 g, 57.3%) as a white solid: H1-NMR (400 MHz, CDCl3) δ 1.656 (9H, s, 5.1-5.45 (2H, bs), 5.39 (1H, d, J=2 Hz), 7.37 (1H, d, J=2 Hz).

reactant | 3-Amino-pyrazole | 24.1 mmol, 2 g | NC1=NNC=C1 | C3H5N3
reactant | triethylamine | 48.2 mmol, 6.77 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 26.5 mmol, 5.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 60.25 mL | O1CCOCC1 | C4H8O2
product | 5-amino-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC=C1N | C8H13N3O2
